US06897231B2
SYNTHESIS OF [3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)}-N-(3-PYRIDYLMETHYL)CARBOXAMIDE
To a flask containing 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride (300 mg, 0.95 mmol) dissolved in pyridine (4 mL) was added 3-aminomethyl pyridine (106 μl, 1.05 mmol). The reaction was allowed to stir under a nitrogen atmosphere overnight. LCMS indicated the reaction was complete. Solvent was removed and water was added to the flask. A solid crashed out of solution that was collected by filtration. The solid was taken up in a 3% ammonia in methanol solution (8 mL) and allowed to reflux at 60° C. for three hours. The reaction was neutralized with 1 N HCl solution and extracted with ethyl acetate. The organic layer was dried with magnesium sulfate, filtered and concentrated to yield the title compound (134 mg, 41% yield). 1H NMR (DMSO-d6) δ 13.5 (s, 1H), 9.2 (s, 1H), 8.6 (m, 2H), 8.5 (s, 1H), 8.1 (m, 2H), 7.95 (d, 1H), 7.65 (d, 1H), 7.6 (m, 1H), 7.4 (m, 3H), 4.6 (m, 2H) ES-MS m/z 347 [M+1]+.

reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 0.95 mmol, 300 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | 3-aminomethyl pyridine | 1.05 mmol, 106 μl | NCC=1C=NC=CC1 | C6H8N2
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | [3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)}-N-(3-PYRIDYLMETHYL)CARBOXAMIDE | 134 mg, 41% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NCC=1C=NC=CC1 | C20H15FN4O
